US07829560B2
3-Fluoro-5-morpholin-4-yl-N-{4-[(2-pyrrolidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide (Compound B334).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and pyrrolidine according to conditions described in general procedure C. Mp: 205-207° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.81 (s, 4 H), 3.06 s, 2 H), 3.27 (s, 4 H), 3.41 (s, 2 H), 3.77 (s, 4 H), 6.27-6.19 (m, 1 H), 7.03-7.06 (m, 1 H), 7.27 (d, J=9.1Hz, 1 H), 7.42-7.46 (m, 1 H), 7.51 (s, 1 H), 7.57-7.639 (m, 3 H), 7.86 (d, J=8.4 Hz, 1 H), 8.00 (d, J=8.3 Hz, 1 H), 8.23-8.25 (m, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-Fluoro-5-morpholin-4-yl-N-{4-[(2-pyrrolidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCCC2)C=C(C1)N1CCOCC1 | C29H28FN5O3
